US07855297B2
By the reaction and treatment in the same manner as in Example 162 using N-[(4-aminophenyl)methyl]-N-(4-isopropylphenyl)-7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.33 g) and ethyl iodide (0.07 mL) as starting materials, N-[(4-ethylaminophenyl)methyl]-N-(4-isopropylphenyl)-7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.29 g) was obtained.

reactant | N-[(4-aminophenyl)methyl]-N-(4-isopropylphenyl)-7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.33 g | NC1=CC=C(C=C1)CN(C(=O)C1CCCC2=CC=C(C=C12)OC)C1=CC=C(C=C1)C(C)C | C28H32N2O2
reactant | ethyl iodide | 0.07 mL | C(C)I | C2H5I
product | N-[(4-ethylaminophenyl)methyl]-N-(4-isopropylphenyl)-7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.29 g | C(C)NC1=CC=C(C=C1)CN(C(=O)C1CCCC2=CC=C(C=C12)OC)C1=CC=C(C=C1)C(C)C | C30H36N2O2
